US07129268B2
{4-[3,3-Bis-(4-chloro-phenyl)-allylsulfanyl]-phenoxy}-acetic acid
{4-[3,3-Bis-(4-chlorophenyl)-allylsulfanyl]-phenoxy}-acetic acid ethyl ester (130 mg, 0.27 mmol) was dissolved in warm ethanol (10 ml). 1N NaOH (1 ml) was added at room temperature and the reaction mixture was stirred for 18 h after which it was evaporated. The residue was treated with 1N HCl (1.2 ml) and extracted with ethyl acetate (3×25 ml). The combined organic phases were dried and evaporated to give the title compound in 48 mg (38%) yield.

reactant | {4-[3,3-Bis-(4-chlorophenyl)-allylsulfanyl]-phenoxy}-acetic acid ethyl ester | 0.27 mmol, 130 mg | C(C)OC(COC1=CC=C(C=C1)SCC=C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)=O | C25H22Cl2O3S
reactant | NaOH | 1N, 1 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | {4-[3,3-Bis-(4-chloro-phenyl)-allylsulfanyl]-phenoxy}-acetic acid | ClC1=CC=C(C=C1)C(=CCSC1=CC=C(OCC(=O)O)C=C1)C1=CC=C(C=C1)Cl | C23H18Cl2O3S
